US07514435B2
108B. Preparation of 2-chloroethyl trifluoromethanesulfonate
A solution of triflic anhydride (2.0 mL, 11.9 mmol) in CCl4 (10 mL) at 0° C. was treated with a solution of 2-chloroethanol (0.8 mL, 11.9 mmol) and pyridine (0.96 mL, 11.9 mmol) in CCl4 (6.0 mL) which was pre-cooled to 0° C. The reaction mixture was stirred at 0° C. for 45 minutes and then filtered through a pad of Na2SO4. The filtrate was concentrated and used immediately in the next step.

reactant | triflic anhydride | 11.9 mmol, 2.0 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 2-chloroethanol | 11.9 mmol, 0.8 mL | ClCCO | C2H5ClO
reactant | pyridine | 11.9 mmol, 0.96 mL | N1=CC=CC=C1 | C5H5N
solvent | CCl4 | 10 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 6.0 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-chloroethyl trifluoromethanesulfonate | FC(S(=O)(=O)OCCCl)(F)F | C3H4ClF3O3S
